US04304642
2-Acetamido-1-benzylthio-cyclohexane (74 mg) prepared as above was added to 1 molar aqueous sodium hydroxide solution (30 ml) and refluxed for 19 hours. The reaction mixture was cooled, diluted to 100 ml with water and extracted with diethyl ether (3×50 ml). The ethereal layer was washed with water (25 ml), dried and evaporated to give 2-amino-1-benzylthio-cyclohexane (58 mg). Mass spec. m/e 221 (parent ion), IR 3300 (broad), 1600 and 1500 cm-1.

reactant | 2-Acetamido-1-benzylthio-cyclohexane | 74 mg | C(C)(=O)NC1C(CCCC1)SCC1=CC=CC=C1 | C15H21NOS
reactant | sodium hydroxide | 1 molar, 30 ml | [OH-].[Na+]
solvent | water | O | H2O
product | 2-amino-1-benzylthio-cyclohexane | 58 mg | NC1C(CCCC1)SCC1=CC=CC=C1 | C13H19NS
